US09376441B2
2-bromo-1-methoxy-3-nitrobenzene (10.6 g, 45.7 mmol) and cyclopropylamine (16 mL, 230 mmol) were dissolved in 1,4-dioxane (50 mL). The stirred mixture was heated mixture in sealed flask to 115 C. After 66 h, mixture was cooled to r.t. and was diluted with EtOAc (100 mL), water (100 mL) and brine (50 mL). The phases were separated and extracted with EtOAc (100 mL). The combined organic phase was dried over Na2SO4, filtered, and concentrated. The concentrate was purified by silica gel chromatography (0-20% EtOAc in hexanes) to afford N-cyclopropyl-2-methoxy-6-nitroaniline. LCMS-ESI+ (m/z): [M+H]+ calcd for C10H13N2O3: 209.09; found: 209.96.

reactant | 2-bromo-1-methoxy-3-nitrobenzene | 45.7 mmol, 10.6 g | BrC1=C(C=CC=C1[N+](=O)[O-])OC | C7H6BrNO3
reactant | cyclopropylamine | 230 mmol, 16 mL | C1(CC1)N | C3H7N
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | brine | 50 mL | [Cl-].[Na+].O
product | N-cyclopropyl-2-methoxy-6-nitroaniline | C1(CC1)NC1=C(C=CC=C1[N+](=O)[O-])OC | C10H12N2O3
